US04153679
2,2-Diethylbutanoyl chloride was prepared from 2,2-diethylbutanoic acid and thionyl chloride in the usual way.

reactant | 2,2-diethylbutanoic acid | C(C)C(C(=O)O)(CC)CC | C8H16O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,2-Diethylbutanoyl chloride | C(C)C(C(=O)Cl)(CC)CC | C8H15ClO
